US06468995B1
Under nitrogen atomosphere, 1 ml of trifluoroacetic acid was added slowly to a solution of 500 mg of diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(methoxyimino)acetamido]-3-[(1-tritylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate in anisole (0.5 ml) and dichloromethane (1.5 ml) at 0° C. The mixture was warmed to a room temperature and stirred for 2 hours. The mixture was poured into IPE and the resulting precipitate was collected by filtration. The precipitate was dissolved in pH 6.86 buffer and chromatographed on a HP-20 (eluent: water-methanol). The eluate was lyophilized to afford 171.6 mg of 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(methoxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid.

reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(methoxyimino)acetamido]-3-[(1-tritylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 500 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C49H41N7O5S3
solvent | anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(methoxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid | 171.6 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)O)C1=O)=N/OC | C17H17N7O5S3
